US04935440
Synthesis of N-methyl-3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole
2 G (6.6 mmol) of 3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole were added to a stirred suspension of 640 mg (13 mmol) of sodium hydride (50% in mineral oil) in 20 ml of anhydrous dimethylformamide. After 1 hour at room temperature, 0.415 ml (6.68 mmol) of methyl iodide was added, and stirring at room temperature was continued for an additional hour. Nitrogen was then bubbled through the reaction mixture for 10 minutes and thereafter the reaction mixture was partitioned between methylene chloride and water. The organic phase was washed with water, dried and evaporated in vacuo. Purification of the crude product by t.l.c. using hexane:ethyl acetate (80:20) afforded 1.439 g (69%) of the title compound, which was recrystallized from methylene chloride-hexane (mp 135.5°-136.5° C.).

reactant | 3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | 6.6 mmol | C(C)(C)(C)C=1C=C(C(=O)C2=CNC=C2)C=C(C1O)C(C)(C)C | C19H25NO2
reactant | sodium hydride | 13 mmol, 640 mg | [H-].[Na+]
reactant | methyl iodide | 6.68 mmol, 0.415 ml | CI | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-methyl-3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | 1.439 g, 69% | CN1C=C(C=C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C20H27NO2
